************************************************************************
* auCdl Netlist:
* 
* Library Name:  MOD_5_Counter
* Top Cell Name: SR_Latch
* View Name:     schematic
* Netlisted on:  Sep 17 20:42:28 2021
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: MOD_5_Counter
* Cell Name:    NAND_2
* View Name:    schematic
************************************************************************

.SUBCKT NAND_2 A B GND VDD Y
*.PININFO A:I B:I Y:O GND:B VDD:B
MNM1 Y B net17 GND N_12_LLRVT W=200e-9 L=60n M=1
MNM0 net17 A GND GND N_12_LLRVT W=200e-9 L=60n M=1
MPM1 Y B VDD VDD P_12_LLRVT W=200e-9 L=60n M=1
MPM0 Y A VDD VDD P_12_LLRVT W=200e-9 L=60n M=1
.ENDS

************************************************************************
* Library Name: MOD_5_Counter
* Cell Name:    SR_Latch
* View Name:    schematic
************************************************************************

.SUBCKT SR_Latch GND Q Q_ R S VDD
*.PININFO R:I S:I Q:O Q_:O GND:B VDD:B
XI1 Q R GND VDD Q_ / NAND_2
XI0 S Q_ GND VDD Q / NAND_2
.ENDS

